US09210927B2
Preparation of 4-Nitrophenyl 2-((tert-butoxycarbonyl)amino)acetate (BI21)
To a stirred solution of 4-nitrophenol (1.0 g, 7.19 mmol) in CH2Cl2 (20.0 mL) was added N-Boc glycine (1.38 g, 7.91 mmol) and EDC HCl (2.05 g, 10.785 mmol) and the reaction was stirred at ambient temperature for 24 h. The reaction mixture was diluted with CH2Cl2 and washed with water and saturated brine solution. The separated CH2Cl2 layer was dried over anhydrous Na2SO4 and concentrated under reduced pressure to afford the title compound as a light brown gummy material that was used in the next step without further purification (1.1 g): 1H NMR (400 MHz, CDCl3) δ 8.29 (d, J=9.2 Hz, 2H), 7.33 (d, J=8.8 Hz, 2H), 5.07 (br, 1H), 4.20 (s, 2H), 1.47 (s, 9H); ESIMS m/z 296.27 ([M+H]+).

reactant | 4-nitrophenol | 7.19 mmol, 1.0 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | N-Boc glycine | 7.91 mmol, 1.38 g | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | EDC HCl | 10.785 mmol, 2.05 g | CCN=C=NCCCN(C)C.Cl
solvent | CH2Cl2 | 20.0 mL | C(Cl)Cl | CH2Cl2
product | 4-Nitrophenyl 2-((tert-butoxycarbonyl)amino)acetate | C(C)(C)(C)OC(=O)NCC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C13H16N2O6
